US09315521B2
1-bromo-2-chloro-3-methylbenzene (10 g, 48.7 mmol) was dissolved in CCl4 (100 mL), and then N-bromosuccinimide (13.0 g, 73.0 mmol) and benzoyl peroxide (5.9 g, 24.3 mmol) were added. The mixture was stirred for 2 hours at reflux. The solid was removed by filtration, and the filtrate was washed with water and dried over sodium sulfate. After evaporation of the solvent, the residue was dissolved in DCM and purified on silica gel using 10% hexane/AcOEt to afford 1-bromo-3-(bromomethyl)-2-chlorobenzene (6.36 g, 46% yield); 1H NMR (400 MHz, CDCl3): δ 4.62 (s, 2H), 7.12 (t, J=7.8 Hz, 1H), 7.39 (dd, J=1.6 Hz, J=7.6 Hz, 1H), 7.60 (dd, J=1.6 Hz, J=8.0 Hz, 1H).

reactant | 1-bromo-2-chloro-3-methylbenzene | 48.7 mmol, 10 g | BrC1=C(C(=CC=C1)C)Cl | C7H6BrCl
reactant | N-bromosuccinimide | 73.0 mmol, 13.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 24.3 mmol, 5.9 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-3-(bromomethyl)-2-chlorobenzene | 6.36 g, 46% yield | BrC1=C(C(=CC=C1)CBr)Cl | C7H5Br2Cl
